US08378116B2
Synthesis of 2-phenyl-4-(1-naphthyl) imidazole
A suspension consisting of 31.3 g (0.20 mol) of benzamidine hydrochloride, 10.8 g (0.20 mol) of sodium methylate, and 150 mL of tetrahydrofuran was heated under reflux for one hour. After cooling to 25° C., a solution consisting of 49.8 g (0.2 mol) of ω-bromo-1-acetonaphthone and 100 mL of tetrahydrofuran was added dropwise such that the internal temperature did not exceed 30° C. After completion of addition, 10.8 g (0.20 mol) of sodium methylate was added, and the mixture was heated under reflux for one hour. Next, the reaction mixture was cooled to room temperature, insoluble matters were filtered off, and the filtrate was evaporated to dryness in vacuo. The residual solid was successively washed with water and acetonitrile and then dried to obtain a crude crystal as a desired material. This crude crystal was recrystallized from acetonitrile to obtain 18.0 g (yield: 33.3%) of a grayish blue crystal.

reactant | benzamidine hydrochloride | 0.20 mol, 31.3 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium methylate | 0.20 mol, 10.8 g | C[O-].[Na+]
reactant | sodium methylate | 0.20 mol, 10.8 g | C[O-].[Na+]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-phenyl-4-(1-naphthyl) imidazole | C1(=CC=CC=C1)C=1NC=C(N1)C1=CC=CC2=CC=CC=C12 | C19H14N2
